US04528287
7.70 g of sodium borohydride was added to a mixture of 3.70 g of 2,3,4-trifluoroaniline, 10.30 g of sodium acetate, 20 ml of acetone, 19.6 ml of acetic acid and 39 ml of water under stirring and ice-cooling. After 2 hours, the reaction mixture was made alkaline with sodium carbonate and extracted with benzene. The extract was washed with NaCl saturated water, dried and the solvent was evaporated to give 3.17 g of 2,3,4-trifluoro-N-isopropyl aniline as colorless oil.

reactant | sodium borohydride | 7.70 g | [BH4-].[Na+]
reactant | 2,3,4-trifluoroaniline | 3.70 g | FC1=C(N)C=CC(=C1F)F | C6H4F3N
reactant | sodium acetate | 10.30 g | C(C)(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 39 ml | O | H2O
solvent | acetic acid | 19.6 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,3,4-trifluoro-N-isopropyl aniline | 3.17 g | FC1=C(NC(C)C)C=CC(=C1F)F | C9H10F3N
